US07618975B2
(3-Fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline (150 mg, 0.84 mmol), 3-fluoro-4-methoxy-phenylamine (118.5 mg, 0.84 mmol) by a procedure similar to example 78. 1H NMR (CDCl3): 7.89-7.75 (m, 4H), 7.53-7.48 (m, 1H)), 7.38-7.34 (m, 2H), 7.0 (t, J=8.7 Hz, 1H), 3.92 (s, 3H), 2.71 (s, 3H).

reactant | 4-chloro-2-methyl-quinazoline | 0.84 mmol, 150 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 3-fluoro-4-methoxy-phenylamine | 0.84 mmol, 118.5 mg | FC=1C=C(C=CC1OC)N | C7H8FNO
product | (3-Fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | FC=1C=C(C=CC1OC)NC1=NC(=NC2=CC=CC=C12)C | C16H14FN3O
